US05476846
b) 1-[(Phenyl)methyl]cyclobutanecarbonitrile
To a solution under a flow of nitrogen and maintained at -30° C., of 82.3 ml (583 mmoles) of N,N-diisopropylamine in 600 ml of dried tetrahydrofuran, there is poured dropwise 364.4 ml (583 mmoles) of a 1.6M solution in hexane of n-butyllithium, then 83.4 ml of 1,3-dimethylimidazolidinone. The mixture is stirred 1/4 hour at -60° C. before cooling to -75° C. to add dropwise a mixture of 43.5 g (530 mmoles) of the compound prepared in example 27a and 500 ml of dried tetrahydrofuran. The mixture is stirred 1 hour at -75° C. and 67.1 g (530 mmoles) of benzyl chloride are added dropwise. The mixture is stirred 1 hour at -75° C. before pouring the reaction mixture over a ice-concentrated HCl mixture. The mixture is extracted with ether, and is washed with water until neutrality, before drying it over Na2SO4. After removing of the solvent under reduced pressure and distillation of the residue there is obtained 68.1 g (yield=75.9%) of a colorless liquid, which crystallizes at about -20° C. b.p.15 =140° C. (b.p.0.1 =118° according to Mousseron M., Jacquier R. and Fraisse R., Compt. Rend. Acad. Sci., Paris (1955), 241, 602-4).

reactant | N,N-diisopropylamine | 583 mmoles, 82.3 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1,3-dimethylimidazolidinone | 83.4 ml | CN1C(N(CC1)C)=O | C5H10N2O
reactant | benzyl chloride | 530 mmoles, 67.1 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 1-[(Phenyl)methyl]cyclobutanecarbonitrile | 68.1 g, yield=75.9% | C1(=CC=CC=C1)CC1(CCC1)C#N | C12H13N
